US05220050
Preparation of 3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxo-4-pentynyl]amino]butanoic acid
The title compound was prepared in the manner of Example 1 with the following modifications: Substituting 5-(p-cyanophenyl)-4-pentynoic acid for 5-(p-cyanophenyl)pentanoic acid and 3-methyl-beta-alanine for 3-phenyl-beta-alanine in procedure C of Example 1. The product was verified by C NMR (CD3OD) delta 15.5, 20.3, 34.5, 40.8, 42.0, 80.3, 92.2, 126.1, 127.8 131.2, 133.5, 166.7, 169.7, 172.5.

reactant | 5-(p-cyanophenyl)pentanoic acid | C(#N)C1=CC=C(C=C1)CCCCC(=O)O | C12H13NO2
reactant | 3-methyl-beta-alanine | CC(N)CC(=O)O | C4H9NO2
reactant | 3-phenyl-beta-alanine | C1(=CC=CC=C1)C(N)CC(=O)O | C9H11NO2
product | 3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxo-4-pentynyl]amino]butanoic acid | NN=CC1=CC=C(C=C1)C#CCCC(=O)NC(CC(=O)O)C | C16H19N3O3
